US05028605
Stage B: preparation of 8-ethylamino-5-chloroimidazo[1,2-a]pyrazine
A solution of 1.5 g (9.8 mmol) of 5,8-dichloroimidazo[ 1,2-a]pyrazine in 25 ml of a 40% strength aqueous ethylamine solution is maintained with stirring for 12 hours. After concentration under reduced pressure and chromatography on a silica column (eluant=ether), 5-chloro-8-ethylaminoimidazo[1,2-a]pyrazine (m.p. 94° C.), is obtained.

reactant | 5,8-dichloroimidazo[ 1,2-a]pyrazine | 9.8 mmol, 1.5 g | ClC1=CN=C(C=2N1C=CN2)Cl | C6H3Cl2N3
reactant | ethylamine | C(C)N | C2H7N
product | 8-ethylamino-5-chloroimidazo[1,2-a]pyrazine | C(C)NC=1C=2N(C(=CN1)Cl)C=CN2 | C8H9ClN4
